US07781443B2
(2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-cyanopyridin-2-yl]}-amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (300 mg), hydroxylammonium chloride (170 mg) and triethylamine (340 μl) are dissolved in ethanol (2 ml), and the mixture is stirred under reflux for 2 hours. The reaction solution is cooled to room temperature, and thereto are added water and ethyl acetate. The organic layer is washed with saturated brine, then dried over magnesium sulfate, and then concentrated under reduced pressure to give (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(N-hydroxycarbamimidoyl)pyridin-2-yl]}-amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (360 mg). MS (m/z): 641 [M+H]+.

reactant | (2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-cyanopyridin-2-yl]}-amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 300 mg | C(C)OC(=O)N1[C@@](C[C@H](C2=NC(=CC=C12)OC)C1=NC=C(C=C1CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C#N)(CC)N | C29H27F6N5O3
reactant | hydroxylammonium chloride | 170 mg | [Cl-].O[NH3+]
reactant | triethylamine | 340 μl | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(N-hydroxycarbamimidoyl)pyridin-2-yl]}-amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 360 mg | C(C)OC(=O)N1[C@@](C[C@H](C2=NC(=CC=C12)OC)C1=NC=C(C=C1CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(NO)=N)(CC)N | C29H30F6N6O4
